US07902219B2
To a solution of 0.48 g of 3-bromo-1-phenylpropane-1,2-dione in a mixture of 3 mL of THF and 0.5 mL of ethanol is added 0.25 g of 2-amino-5-nitropyridine. The reaction mixture is heated for 15 minutes at 160° C. in a microwave machine. The solid formed is separated out, taken up in 3 mL of ethanol and refluxed for 6 hours. After evaporating off the solvent, the residue is taken up in ethyl acetate and diluted with sodium hydroxide solution. The organic phase is washed with water, dried and then evaporated to give 0.42 g of (6-nitroimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone in the form of a brown solid, which is used without further purification.

reactant | 3-bromo-1-phenylpropane-1,2-dione | 0.48 g | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
reactant | 2-amino-5-nitropyridine | 0.25 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | (6-nitroimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone | 0.42 g | [N+](=O)([O-])C=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C14H9N3O3
